US04091108
2-(5-Tetrazolyl)phenoxathiin (0.70g) and m-chloroperoxybenzoic acid (0.45g) were stirred for 2 hours at room temperature in acetone (20 ml.) and water (5 ml.). The reaction mixture was diluted with water, and the solid filtered, dried, washed with ether and re-dried to give 2-(5-tetrazolyl)phenoxathiin-10-oxide m.p. 267°-8° C. Recrystallisation from glacial acetic acid raised the melting point to 280°-1° C.

reactant | 2-(5-Tetrazolyl)phenoxathiin | 0.70g | N1N=NN=C1C1=CC=2SC3=CC=CC=C3OC2C=C1 | C13H8N4OS
reactant | m-chloroperoxybenzoic acid | 0.45g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 2-(5-tetrazolyl)phenoxathiin-10-oxide | N1N=NN=C1C1=CC=2S(C3=CC=CC=C3OC2C=C1)=O | C13H8N4O2S
